US08217035B2
To an argon flushed mixture of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (42 mg, 0.19 mmol), 6-chloro-N-methyl-2-morpholino-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine (12 mg, 0.038 mmol) in THF (0.8 mL), and aq. Na2CO3 (2M, 0.27 mL) in a pressure vessel, was added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (8 mg, 0.0095 mmol) in one portion. The pressure vessel was sealed and the mixture was heated in a microwave at 120° C. for 600 seconds. The crude mixture was filtered, concentrated under reduced pressure and purified by reverse phase preparative HPLC to give N6-methyl-2-morpholino-N6-(tetrahydro-2H-pyran-4-yl)-4,5′-bipyrimidine-2′,6-diamine (4.6 mg, 32%). LC/MS (m/z): 372.2 (MH+), Rt 1.76 minutes.

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.19 mmol, 42 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | 6-chloro-N-methyl-2-morpholino-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 0.038 mmol, 12 mg | ClC1=CC(=NC(=N1)N1CCOCC1)N(C1CCOCC1)C | C14H21ClN4O2
reactant | Na2CO3 | 2M, 0.27 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.0095 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N6-methyl-2-morpholino-N6-(tetrahydro-2H-pyran-4-yl)-4,5′-bipyrimidine-2′,6-diamine | 4.6 mg, 32% | CN(C1=CC(=NC(=N1)N1CCOCC1)C=1C=NC(=NC1)N)C1CCOCC1 | C18H25N7O2
